US06777409B2
2-Benzoyl-4-(5-fluoro-2-vinylphenyl)-4-methylvaleric acid-methyl ester
A solution of 0.53 g (1.25 mmol) of 2-benzoyl-4-(2-bromo-5-fluorophenyl)-4-methylvaleric acid-methyl ester and 77 mg (0.07 mmol) of tetrakis(triphenylphosphine)palladium in 40 ml of toluene is refluxed with vinyl(tributyl)stannane for 8 hours. Then, it is concentrated by evaporation and purified by column chromatography on silica gel with hexane-ethyl acetate: 320 mg of product.

reactant | 2-benzoyl-4-(2-bromo-5-fluorophenyl)-4-methylvaleric acid-methyl ester | 1.25 mmol, 0.53 g | COC(C(CC(C)(C)C1=C(C=CC(=C1)F)Br)C(C1=CC=CC=C1)=O)=O | C20H20BrFO3
reactant | vinyl(tributyl)stannane | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Benzoyl-4-(5-fluoro-2-vinylphenyl)-4-methylvaleric acid-methyl ester | COC(C(CC(C)(C)C1=C(C=CC(=C1)F)C=C)C(C1=CC=CC=C1)=O)=O | C22H23FO3
